US05153187
In the same manner as described in Example 48, (1R, 5S, 6S)-2-[(3S)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid potassium salt is treated with isobutyryloxymethyl iodide to give (1R, 5S, 6S)-2-[(3S)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester.

reactant | (1R, 5S, 6S)-2-[(3S)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid potassium salt | [K+].N1C([C@H](CC1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)=S
reactant | isobutyryloxymethyl iodide | C(C(C)C)(=O)OCI | C5H9IO2
product | (1R, 5S, 6S)-2-[(3S)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester | C(C(C)C)(=O)OCOC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@@H]2C(NCC2)=S | C19H26N2O6S2
